US05112998
In 10 ml of butyl acetate was dissolved 350 mg of 20-(1,3-dioxolan-2-yl)-1α-acetoxy-3β-(methoxymethyl)oxypregn-6-en-5α-ol, followed by addition of 0.2 ml of acetic acid. The mixture was stirred in an atmosphere of argon gas under heating at 100° C. for 12 hours. The reaction mixture was then worked up in the same manner as Example 124 to give 100 mg of 20-(1,3-dioxolan-2-yl)-1α--acetoxy-3β-(methoxymethyl)oxypregna-5,7-diene showing the following physical properties.

reactant | 20-(1,3-dioxolan-2-yl)-1α-acetoxy-3β-(methoxymethyl)oxypregn-6-en-5α-ol | 350 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C)=O)OCOC)O | C28H44O7
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | butyl acetate | 10 ml | C(C)(=O)OCCCC | C6H12O2
product | 20-(1,3-dioxolan-2-yl)-1α--acetoxy-3β-(methoxymethyl)oxypregna-5,7-diene | 100 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C)=O)OCOC | C28H42O6
